US05605924
Preparation of [6-hydroxy-2-[4-(n-butylsulfonoyl)-phenyl]benzo[b]thien-3-yl]-[4-[2-(1-piperidinyl)ethoxy]phenyl]methanone hydrochloride
1.7 g of [6-hydroxy-2-[4-(n-butylsulfonoyl)-phenyl]benzo[b]-thien-3 -yl]-[4-[2-(1-piperidinyl)ethoxy]phenyl]methanone (2.86 mmol) was dissolved in EtOAc and a saturated solution of HCl-Et2O was added. A thick white precipitate formed. The liquid was decanted off. The remaining solid was triturated with Et2O (2x) and dried to afford 1.57 g of the title compound as a white amorphous powder.

reactant | [6-hydroxy-2-[4-(n-butylsulfonoyl)-phenyl]benzo[b]-thien-3 -yl]-[4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 2.86 mmol, 1.7 g | OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)S(=O)(=O)CCCC)C1 | C32H35NO5S2
reactant | HCl Et2O | Cl.CCOCC
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [6-hydroxy-2-[4-(n-butylsulfonoyl)-phenyl]benzo[b]thien-3-yl]-[4-[2-(1-piperidinyl)ethoxy]phenyl]methanone hydrochloride | 1.57 g | Cl.OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)S(=O)(=O)CCCC)C1 | InChI=1S/C32H35NO5S2.ClH/c1-2-3-21-40(36,37)27-14-9-24(10-15-27)32-30(28-16-11-25(34)22-29(28)39-32)31(35)23-7-12-26(13-8-23)38-20-19-33-17-5-4-6-18-33;/h7-16,22,34H,2-6,17-21H2,1H3;1H
